US07329666B2
To a solution of 9-Amino-5-(2-methanesulfinylpyrimidin-4-yl)-pyrido[3′,2′:4,5]-pyrrolo[1,2-c]pyrimidine (50 mg, 0.16 mmol) in CH2Cl2 (15 ml) mCPBA (88 mg, 0.36 mmol) was added at room temperature. The mixture was stirred for 2 h. A saturated aq. Na2S2O3 solution was added (1 ml) and was basified with saturated aq. Na2CO3. The organic layer was separated and the aqueous layer extracted with CH2Cl2. The organic solutions were evaporated together and 9-Amino-5-(2-methanesulfonylpyrimidin-4-yl)pyrido[3′,2′:4,5]-pyrrolo[1,2-c]pyrimidine (50 mg, 91%) as a light orange solid was obtained.

reactant | 9-Amino-5-(2-methanesulfinylpyrimidin-4-yl)-pyrido[3′,2′:4,5]-pyrrolo[1,2-c]pyrimidine | 0.16 mmol, 50 mg | NC1=NC=CC=2N1C1=C(C2C2=NC(=NC=C2)S(=O)C)C=CC=N1 | C15H12N6OS
reactant | CH2Cl2 | 0.36 mmol, 15 ml, 88 mg | C(Cl)Cl | CH2Cl2
reactant | Na2S2O3 | [O-]S(=O)(=S)[O-].[Na+].[Na+]
reactant | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
product | 9-Amino-5-(2-methanesulfonylpyrimidin-4-yl)pyrido[3′,2′:4,5]-pyrrolo[1,2-c]pyrimidine | 50 mg, 91% | NC1=NC=CC=2N1C1=C(C2C2=NC(=NC=C2)S(=O)(=O)C)C=CC=N1 | C15H12N6O2S
